US04079063
2-(4-Carbethoxyphenyl)-4-hydroxy-1,2,3-triazole-1-oxide
280 g of oxime-hydrazone II (R = carbethoxyphenyl), prepared from diazotised 4-aminobenzoic acid-ethyl ester and methazonic acid, is stirred in 2000 ml of acetic acid for 10 hours at 60° C. The whole is cooled and the precipitate is filtered off with suction, well washed with water and again filtered off with suction.

reactant | 4-aminobenzoic acid-ethyl ester | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
reactant | methazonic acid | C(/C=N\O)[N+](=O)[O-] | C2H4N2O3
reactant | acetic acid | 2000 ml | C(C)(=O)O | C2H4O2
product | 2-(4-Carbethoxyphenyl)-4-hydroxy-1,2,3-triazole-1-oxide | C(=O)(OCC)C1=CC=C(C=C1)N1[N+](=CC(=N1)O)[O-] | C11H11N3O4
